US05045552
2-[[4-{2-(1H-Benzimidazol-2-ylthio)ethoxy}-3-methylpyridine-2-yl]methylthio]-1H-benzimidazole
A mixture comprising 1.34 g (0.004 mol) of 2-[{4-(2-chloroethoxy)-3-methylpyridine-2-yl}methylthio]-1H-benzimidazol, 0.53 g (0.0035 mol) of 2-mercapto-1H-benzimidazole, 0.17 g (0.004 mol) of 95% sodium hydroxide and 30 ml of ethanol was stirred at 80° C. for 8 hours. After the completion of the reaction, the reaction mixture was filtered to remove inorganic matter. The filtrate was distilled to remove the solvent. The residue was purified by silica gel column chromatography (ethyl acetate/n-hexane) to obtain 1.08 g of the title compound as a white crystal.

reactant | 2-[{4-(2-chloroethoxy)-3-methylpyridine-2-yl}methylthio]-1H-benzimidazol | 0.004 mol, 1.34 g | ClCCOC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C16H16ClN3OS
reactant | 2-mercapto-1H-benzimidazole | 0.0035 mol, 0.53 g | SC1=NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | sodium hydroxide | 0.004 mol, 0.17 g | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-[[4-{2-(1H-Benzimidazol-2-ylthio)ethoxy}-3-methylpyridine-2-yl]methylthio]-1H-benzimidazole | 1.08 g | N1C(=NC2=C1C=CC=C2)SCCOC2=C(C(=NC=C2)CSC2=NC1=C(N2)C=CC=C1)C | C23H21N5OS2
